US05212169
(b) Preparation of 3-amino-N-[2-(8-chloro-10,11-dihydrodibenz[b,f][1,4]oxazepin-10-yl) -2-oxoethyl]propanamide, monohydrochloride
A solution of 1,1-dimethylethyl [3-[[2-(8-chloro-10,11-dihydrodibenz[b,f][1,4]-oxazepin -10-yl)-2-oxoethyl]amino]-3-oxopropyl]carbamate (8.1 grams), glacial acetic acid (50 mL), and 6.95M HCl in dioxane (27 mL) was stirred at room temperature for 20 minutes. The reaction was evaporated in vacuo, and the residue was co-evaporated in vacuo twice with ethanol (3A; 170 mL each time). The resulting foam was crystallized from ethyl acetate/ethanol and dried in vacuo at 56° C. The yield of the title compound was 5.79 grams (85%). Analysis calculated for C18H26ClN3O3S×HCl: C, 54.56; H, 4.83; N, 10.60; Cl, 17.89. Found: C, 54.30; H, 4.79; N, 10.49; Cl, 16.77. DSC: 216°-217° C.

reactant | 1,1-dimethylethyl [3-[[2-(8-chloro-10,11-dihydrodibenz[b,f][1,4]-oxazepin -10-yl)-2-oxoethyl]amino]-3-oxopropyl]carbamate | 8.1 grams | ClC1=CC2=C(OC3=C(CN2C(CNC(CCNC(OC(C)(C)C)=O)=O)=O)C=CC=C3)C=C1 | C23H26ClN3O5
reactant | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
reactant | HCl | 6.95M | Cl | ClH
solvent | dioxane | 27 mL | O1CCOCC1 | C4H8O2
product | 3-amino-N-[2-(8-chloro-10,11-dihydrodibenz[b,f][1,4]oxazepin-10-yl) -2-oxoethyl]propanamide, monohydrochloride | Cl.NCCC(=O)NCC(=O)N1C2=C(OC3=C(C1)C=CC=C3)C=CC(=C2)Cl | InChI=1S/C18H18ClN3O3.ClH/c19-13-5-6-16-14(9-13)22(18(24)10-21-17(23)7-8-20)11-12-3-1-2-4-15(12)25-16;/h1-6,9H,7-8,10-11,20H2,(H,21,23);1H
